US08791107B2
2-((2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)-4-methylbenzamide
To a 10 mL vial were added 2-((2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)-4-methylbenzamide (PREPARATION x84, 57 mg, 0.152 mmol), 1H-indol-4-ylboronic acid (49.1 mg, 0.305 mmol), and PdCl2(dppf) (11.16 mg, 0.015 mmol) in dioxane (2 mL) and saturated NaHCO3 (0.4 mL). The resulting orange suspension was heated to 100° C. and stirred overnight. The reaction mixture was subsequently diluted with EtOAc and washed with saturated NH4Cl (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated. The product was purified by preparative HPLC, using a 20-45% CH3CN gradient in H2O (with 0.05% TFA). The pure fractions were combined and lyophilized to give the title compound as a yellow solid (23 mg, 33%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.33 (s, 3H), 3.06-3.19 (m, 1H), 3.24-3.33 (m, 2H), 3.56-3.64 (m, 1H), 3.89-4.05 (m, 1H), 4.06-4.18 (m, 1H), 4.41-4.55 (m, 1H), 4.67-4.81 (m, 2H), 6.94-7.08 (m, 1H), 7.21-7.33 (m, 2H), 7.33-7.41 (m, 1H), 7.44-7.54 (m, 1H), 7.54-7.74 (m, 2H), 7.79-7.91 (m, 1H), 11.46-11.66 (m, 1H); ESI-MS m/z [M+H]+ calc'd for C26H26N6O2, 455.2. found 455.3.

reactant | 2-((2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)-4-methylbenzamide | 0.152 mmol, 57 mg | ClC1=NC=2N3C(CN(C2C=N1)CC1=C(C(=O)N)C=CC(=C1)C)COCC3 | C18H20ClN5O2
reactant | 1H-indol-4-ylboronic acid | 0.305 mmol, 49.1 mg | N1C=CC2=C(C=CC=C12)B(O)O | C8H8BNO2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.015 mmol, 11.16 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-((2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)-4-methylbenzamide | 23 mg, 33% | N1C=CC2=C(C=CC=C12)C1=NC=2N3C(CN(C2C=N1)CC1=C(C(=O)N)C=CC(=C1)C)COCC3 | C26H26N6O2
